US09315495B2
A solution of diisopropylamine (2.6 mL, 18.1 mmol) in anhydrous tetrahydrofuran (5 mL) under argon at −40° C. was treated dropwise with n-butyllithium (7.0 mL, 2.5 M in hexanes). The resulting solution was allowed to warm to −10° C. over 15 minutes. In a separate flask, hexamethylphosphoramide (2 mL) and 3-acetyl-6-methyl-4-hydroxy-2-pyrone (923 mg, 5.49 mmol) were combined and azeotroped to dryness with benzene (3×25 mL) before being dissolved in anhydrous tetrahydrofuran (5 mL). To the LDA solution at −78° C. was added dropwise over 5 minutes the solution of hexamethylphosphoramide and 3-acetyl-6-methyl-4-hydroxy-2-pyrone. The reaction mixture became a solid red/orange mass after the addition was complete and was kept at −78° C. for 40 minutes before methyl iodide (0.38 mL, 6.04 mmol) was added in a single portion. The reaction flask was removed from the cooling bath and swirled vigorously by hand as it warmed to room temperature over 20 minutes. Over this time the solid mass dissipated and became a coarse precipitate. The reaction mixture was poured into 30 mL 1 N hydrochloric acid and organics were extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with 5% aqueous sodium bisulfite and brine (30 mL each), dried over magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography on silica gel (10% ethyl acetate in hexanes+1% acetic acid) to afford 3-acetyl-6-ethyl-4-hydroxy-2-pyrone (471 mg, 47%) as a white solid: LRMS (ES+) m/z [M+H]+. found 183 (Exact mass=182.06). Used without further characterization.

reactant | diisopropylamine | 18.1 mmol, 2.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 7.0 mL | C(CCC)[Li]
reactant | 3-acetyl-6-methyl-4-hydroxy-2-pyrone | 5.49 mmol, 923 mg | C(C)(=O)C=1C(OC(=CC1O)C)=O | C8H8O4
reactant | methyl iodide | 6.04 mmol, 0.38 mL | CI | CH3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 2 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-acetyl-6-ethyl-4-hydroxy-2-pyrone | 471 mg, 47% | C(C)(=O)C=1C(OC(=CC1O)CC)=O | C9H10O4
